US07745462B2
A mixture of 2-(2-methoxymethylindan-2-yl)-isoindole-1,3-dione (0.30 g, 0.976 mmol) and hydrazine hydrate (47 μl, 0.976 mmol) in 95% ethanol (15 ml) is heated to reflux for 45 hours. Further hydrazine hydrate (9.4 μl, 0.976 mmol) is added and the reaction refluxed for an additional 16 hours, followed by addition of a final portion of hydrazine hydrate (9.4 μl, 0.976 mmol) and a further 16 hours reflux. After cooling, the resultant suspension is filtered and the filter cake washed with ethanol. The combined filtrate and washings are evaporated and triturated with ether to afford 2-methoxymethylindan-2-ylamine, MH+178.

reactant | 2-(2-methoxymethylindan-2-yl)-isoindole-1,3-dione | 0.976 mmol, 0.30 g | COCC1(CC2=CC=CC=C2C1)N1C(C2=CC=CC=C2C1=O)=O | C19H17NO3
reactant | hydrazine hydrate | 0.976 mmol, 47 μl | O.NN
reactant | hydrazine hydrate | 0.976 mmol, 9.4 μl | O.NN
reactant | hydrazine hydrate | 0.976 mmol, 9.4 μl | O.NN
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-methoxymethylindan-2-ylamine | COCC1(CC2=CC=CC=C2C1)N | C11H15NO
